US08053440B2
To a solution of 4,6-dimethoxy-2-methyl nicotinamide (2.0 g, 10.2 mmol) in THF (80 mL), n-butyl lithium (19.12 mL, 30.6 mmol, 1.6 M solution in hexane) was added slowly under nitrogen at −78° C. After completion of addition the mixture was stirred for 1 h at 0° C. Then cooled to −78° C. and a solution of 4-methoxy benzonitrile (1.65 g, 10.2 mmol) in THF (10 mL) was added quickly. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature and stirred for 16 h at room temperature. Saturated NH4Cl solution was added with cooling. The organic layer was washed with water, brine, dried over Na2SO4 and concentrated to give crude product. The crude product was purified by chromatography using 50% ethyl acetate in hexane and then 2% methanol in ethyl acetate to give 2,4-dimethoxy-7-(4-methoxy-3,5-dimethylphenyl)-1,6-naphthyridin-5(6H)-one (410 mg, 12%), as a yellow solid. Selected data: MS (ES) m/z: 341.1; mp 262-263° C. (at decomposition).

reactant | 4,6-dimethoxy-2-methyl nicotinamide | 10.2 mmol, 2.0 g | COC1=CC(=NC(=C1C(=O)N)C)OC | C9H12N2O3
reactant | n-butyl lithium | 30.6 mmol, 1.6 M, 19.12 mL | C(CCC)[Li]
reactant | 4-methoxy benzonitrile | 10.2 mmol, 1.65 g | COC1=CC=C(C#N)C=C1 | C8H7NO
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,4-dimethoxy-7-(4-methoxy-3,5-dimethylphenyl)-1,6-naphthyridin-5(6H)-one | 410 mg, 12% | COC1=NC=2C=C(NC(C2C(=C1)OC)=O)C1=CC(=C(C(=C1)C)OC)C | C19H20N2O4
